US09062044B2
Step A: (1S,6R)-8-Benzyl 3-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3,8-dicarboxylate.
To (1S,6R)-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate (1.4 g, 6.8 mmol) in THF (35 mL) and H2O (35 mL) was added Na2CO3 (1.4 g. 13.6 mmol) and CbzCl (1.1 mL, 7.5 mmol). After 18 h, the reaction mix was diluted with H2O and extracted with CH2Cl2 (2×). The combined organics were dried (Na2SO4) to give 2.4 g of the title compound as a clear oil that was used without further purification.

reactant | (1S,6R)-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 6.8 mmol, 1.4 g | [C@H]12CN(CC[C@@H]2CN1)C(=O)OC(C)(C)C | C11H20N2O2
reactant | Na2CO3 | 13.6 mmol, 1.4 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CbzCl | 7.5 mmol, 1.1 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | H2O | 35 mL | O | H2O
product | (1S,6R)-8-Benzyl 3-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3,8-dicarboxylate | 2.4 g | [C@H]12CN(CC[C@@H]2CN1C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H26N2O4
